US07576215B2
{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[(4-FLUOROBIPHENYL-3-YL)METHYL]AMINE
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and 4-fluoro-biphenyl-3-carbaldehyde according to the procedure of Example 66. MS (ES) m/z 563.0.

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 4-fluoro-biphenyl-3-carbaldehyde | FC1=C(C=C(C=C1)C1=CC=CC=C1)C=O | C13H9FO
product | {3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[(4-FLUOROBIPHENYL-3-YL)METHYL]AMINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC=1C=C(C=CC1F)C1=CC=CC=C1)C(F)(F)F | C36H26F4N2
